US09079906B2
1-(3-tert-Butyl-5-methoxymethylphenyl)ethanone
Methyl 3-tert-butyl-5-hydroxymethylbenzoate was reacted with methyl iodide analogously to O5.043, and converted to the title compound analogously to the sequence O4:008 to O2.008. 1.54 g were obtained.

reactant | Methyl 3-tert-butyl-5-hydroxymethylbenzoate | C(C)(C)(C)C=1C=C(C(=O)OC)C=C(C1)CO | C13H18O3
reactant | methyl iodide | CI | CH3I
product | 1-(3-tert-Butyl-5-methoxymethylphenyl)ethanone | C(C)(C)(C)C=1C=C(C=C(C1)COC)C(C)=O | C14H20O2
